US05143920
Sulphanilic acid (43.3 g) and anhydrous sodium carbonate (13.25 g) were dissolved in water (250 ml) and cooled to 15 C. Sodium nitrite (18.5 g) in water (100 ml) was added and the mixture was immediately poured onto a mixture of ice (300 ml) and hydrochloric acid (54 ml), and stirred at 0° for 20 minutes. The suspension was then added to a cooled solution of 3-methoxyphenol (31 g) and sodium hydroxide (55 g) in water (300 ml). The resulting deep red solution was stirred for 1 hour then heated to 70°. Sodium dithionite was added portionwise until the colour discharged on cooling, crystals of 4-amino-3-methoxyphenol (23 g, 66%) formed which were filtered, washed with water and dried, m.p. 168°-170°.

reactant | Sulphanilic acid | 43.3 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | sodium carbonate | 13.25 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Sodium nitrite | 18.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 54 ml | Cl | ClH
reactant | 3-methoxyphenol | 31 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | sodium hydroxide | 55 g | [OH-].[Na+]
reactant | Sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 250 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 4-amino-3-methoxyphenol | 23 g, 66% | NC1=C(C=C(C=C1)O)OC | C7H9NO2
